US07517532B2
Step 4: 7-[(1-Acetylpiperidin-4-yl)methyl]-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione
To a suspension of 2-(4-fluorobenzyl)-8,9-dihydroxy-7-(piperidin-4-ylmethyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione mono TFA salt (50 mg, 0.125 mmol) in anhydrous methylene chloride (2 mL), pyridine (12 μL, 0.149 mmol) and acetic anhydride (14 μL, 0.149 mmol) were added. The reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated under vacuum, and the residue was purified by prep HPLC (Gilson semi preparative HPLC system using a Waters Nova Pak column [10×40 mm I.D. cartridge, C18, 6 μM pore size) eluting with 95-5% water (0.10% TPA)/acetonitrile (0.10% TFA) gradient at 35 mL/min]. Collection and lyophilization of appropriate fractions provided he title compound as white solid.

reactant | 2-(4-fluorobenzyl)-8,9-dihydroxy-7-(piperidin-4-ylmethyl)-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione mono TFA salt | 0.125 mmol, 50 mg | OC(=O)C(F)(F)F.FC1=CC=C(CN2C(C=3N(CC2)C(C(=C(C3O)O)CC3CCNCC3)=O)=O)C=C1
reactant | pyridine | 0.149 mmol, 12 μL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.149 mmol, 14 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 7-[(1-Acetylpiperidin-4-yl)methyl]-2-(4-fluorobenzyl)-8,9-dihydroxy-3,4-dihydro-2H-pyrido[1,2-a]pyrazine-1,6-dione | C(C)(=O)N1CCC(CC1)CC1=C(C(=C2N(CCN(C2=O)CC2=CC=C(C=C2)F)C1=O)O)O | C23H26FN3O5
